US07005538B1
N-[3,5-Dibromo-4-(3-bromobenzyloxy)phenyl]oxamic Acid
Ethyl-N-[3,5-dibromo-4-(3-bromobenzyloxy)phenyl]oxamate (18 mg) was dissolved in methanol (1 mL) and treated with sodium hydroxide (IN, 6–8 equivalents). After stirring over night at room temperature, the reaction mixture was acidified to pH 5. The mixture was purified on semi-preperative HPLC using the same conditions as described for Examples 27, 28 and 30. This gave 7.8 mg (46%) of N-[3,5-dibromo-4-(3-bromobenzyloxy)phenyl]oxamic acid. MS: m/z 508.0 (M+−1).

reactant | Ethyl-N-[3,5-dibromo-4-(3-bromobenzyloxy)phenyl]oxamate | 18 mg | C(C)OC(C(=O)NC1=CC(=C(C(=C1)Br)OCC1=CC(=CC=C1)Br)Br)=O | C17H14Br3NO4
reactant | sodium hydroxide | 6–8 equivalents | [OH-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | N-[3,5-Dibromo-4-(3-bromobenzyloxy)phenyl]oxamic Acid | BrC=1C=C(C=C(C1OCC1=CC(=CC=C1)Br)Br)NC(C(=O)O)=O | C15H10Br3NO4
